
.subckt transfo 1 2 3 4
* 1 Entree 1
* 2: Entree 2
* 3 Entree 3
* 4 Entre 4
R1 1 5 0
L1 5 2 2
R2 6 3 0
L2 6 4 {(220/12)*40}
k1 L1 L2 0.999
.ends transfo
