
.subckt Transformer_SP_1S 1 2 3 4 5
* 1 Entre 1
* 2 Point milieu
* 3 Entre 2
* 4 Sortie 1
* 5 Sortie 2

*Première bobine entree
R1 1 6 0
L1 6 2 0.1

* Deuxième bobine entree
R2 2 7 0
L2 7 3 {(220/12)*1.7}

* Bobine sortie
R3 5 8 0
L3 8 4 {(220/12)*1.7}

* Couplage
K1 L1 L3 0.9999
k2 L2 L3 0.9999

.ends Transformer_SP_1S